US09382188B2
step 2) tert-butyl 2′-fluoro-2-(3-hydroxy-3-methylbut-1-yn-1-yl)-5′-methoxybiphenyl-4-yl carbonate
To a solution of tert-butyl 2′-fluoro-5′-methoxy-2-(3-methyl-3-((trimethylsilyl)oxy)but-1-yn-1-yl)biphenyl-4-yl carbonate (480 mg) in THF (3 mL) was added a solution (1 M, 2.0 mL) of tetrabutylammonium fluoride in THF, and the mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with ethyl acetate. The diluted solution was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (343 mg) as a colorless oil.

reactant | tert-butyl 2′-fluoro-5′-methoxy-2-(3-methyl-3-((trimethylsilyl)oxy)but-1-yn-1-yl)biphenyl-4-yl carbonate | 480 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C#CC(C)(O[Si](C)(C)C)C)=O | C26H33FO5Si
reactant | tetrabutylammonium fluoride | 1 M, 2.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2′-fluoro-2-(3-hydroxy-3-methylbut-1-yn-1-yl)-5′-methoxybiphenyl-4-yl carbonate | 343 mg | C(OC(C)(C)C)(OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C#CC(C)(C)O)=O | C23H25FO5
